US04745196
Sodium hydride 50% oil dispersion (1.01 g., 20.8 mmole) is added to a solution of dibenzylphosphite (5.25 g., 20.0 mmole) in dry dimethylformamide (30 ml.) under argon. The resulting mixture is stirred at room temperature for one hour and at 40° (bath temperature) for 30 minutes. The resulting clear, yellow solution is allowed to cool to room temperature and treated with a solution of 4-phenylbutyl chloride (4.0 g., 23.7 mmole) in dimethylformamide (3 ml.). The resulting mixture is stirred at room temperature for 18 hours and at 40° for 2 hours. The mixture is partitioned between ethyl acetate-1% potassium bisulfate. The organic phase is washed successively with water (twice), saturated sodium bicarbonate (twice), and saturated sodium chloride (twice), dried over sodium sulfate, and evaporated. The residue is purified by flash chromatography (silica gel, 100 g. of LPS-1) eluting with ethyl acetate:hexane (3:7) to give (4-phenylbutyl)phosphonic acid, dibenzyl ester as a colorless, somewhat viscous oil.

reactant | Sodium hydride | [H-].[Na+]
reactant | dibenzylphosphite | 20.0 mmole, 5.25 g | C(C1=CC=CC=C1)OP(OCC1=CC=CC=C1)[O-]
reactant | 4-phenylbutyl chloride | 23.7 mmole, 4.0 g | C1(=CC=CC=C1)CCCCCl | C10H13Cl
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | (4-phenylbutyl)phosphonic acid, dibenzyl ester | C1(=CC=CC=C1)CCCCP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C24H27O3P
